US07365085B2
b) [4-(6-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propoxy}-pyridin-2-yl)-piperazin-1-yl]-acetic acid hydrochloride salt
To a stirring solution of [4-(6{-3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propoxy}-pyridin-2-yl)-piperazin-1-yl]-acetic acid methyl ester (46 mg, 0.07 mmol) in THF (2 ml) and H2O (0.5 ml) was added LiOH (6 mg, 0.13 mmol). The reaction mixture was stirred for 24 h at RT and then concentrated. The aqueous mixture was acidified to pH=3 with 1 N HCl (aq) and extracted with EtOAc (three times). The organic extracts were dried over Na2SO4, filtered, and concentrated. The free base was dissolved in dichloromethane and 1 N HCl (Et2O) was added. The solution was concentrated under vacuum to provide the title compound as a white solid, 26 mg (45%). MS (ESI) 667.2 (M+).

reactant | [4-(6{-3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propoxy}-pyridin-2-yl)-piperazin-1-yl]-acetic acid methyl ester | 0.07 mmol, 46 mg | COC(CN1CCN(CC1)C1=NC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C37H40ClF3N4O3
reactant | LiOH | 0.13 mmol, 6 mg | [Li+].[OH-]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | H2O | 0.5 ml | O | H2O
product | [4-(6-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propoxy}-pyridin-2-yl)-piperazin-1-yl]-acetic acid hydrochloride salt | Cl.ClC1=C(CN(CCCOC2=CC=CC(=N2)N2CCN(CC2)CC(=O)O)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C36H38ClF3N4O3.ClH/c37-35-29(14-7-15-31(35)36(38,39)40)24-43(25-30(27-10-3-1-4-11-27)28-12-5-2-6-13-28)18-9-23-47-33-17-8-16-32(41-33)44-21-19-42(20-22-44)26-34(45)46;/h1-8,10-17,30H,9,18-26H2,(H,45,46);1H
